US04617314
A suspension of 5.2 g of methyl 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylate and 4.5 g of 1-isobutyl-2-aminomethylpyrrolidine in 20 ml of diethylene glycol is heated at 130°-140° C. and stirred for 18-19 hours. The reaction solution is cooled to room temperature and poured into 150-200 ml of water while stirring. Under ice-cooling crystals are deposited thoroughly and collected by suction filtration. The crude crystals are washed with cold water, dissolved in chloroform and separated on a column of silica gel (developing solvent: methanol/chloroform=1/9). Crystals obtained are recrystallized from about 35 ml of methanol to give crystals of N-(1-isobutyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 182°-184° C.

reactant | methyl 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylate | 5.2 g | CC1OC2=C(C1)C=C(C=C2C(=O)OC)S(N)(=O)=O | C11H13NO5S
reactant | 1-isobutyl-2-aminomethylpyrrolidine | 4.5 g | C(C(C)C)N1C(CCC1)CN | C9H20N2
reactant | water | 150-200 ml | O | H2O
solvent | diethylene glycol | 20 ml | C(COCCO)O | C4H10O3
product | N-(1-isobutyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(C(C)C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C19H29N3O4S
